US05200111
EXAMPLE 16: SYNTHESIS OF (S,S)-4-(4'-METHOXYPHENYL)-BENZOIC ACID-4-(3'-CHLORO-1'-METHYLBUTOXY)-PHENYL ESTER
0.50 g of 4-(4'-methoxyphenyl)benzoic acid, 0.44 g of (S,S)-4-(3'-chloro-1'-methylbutoxy)phenol, 0.45 g of dicyclohexylcarbodiimide, 0.05 g of 4-pyrrolidino-pyridine and 20 ml of methylene chloride were stirred together at room temperature for five hours. The crude product obtained in the same manner as the one described in Example 8 was purified by silica gel column chromatography with the use of a mixture of n-hexane and ethyl acetate (85:15) as a developing solvent and recrystallized from ethyl slcohol to thereby give the title compound.

reactant | 4-(4'-methoxyphenyl)benzoic acid | 0.50 g | COC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | (S,S)-4-(3'-chloro-1'-methylbutoxy)phenol | 0.44 g | Cl[C@H](C[C@@H](OC1=CC=C(C=C1)O)C)C | C11H15ClO2
reactant | dicyclohexylcarbodiimide | 0.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidino-pyridine | 0.05 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (S,S)-4-(4'-METHOXYPHENYL)-BENZOIC ACID-4-(3'-CHLORO-1'-METHYLBUTOXY)-PHENYL ESTER | Cl[C@H](C[C@@H](OC1=CC=C(C=C1)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC)=O)C)C | C25H25ClO4
